US06087380
3-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 2 from 3-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 80% of theory, C25H25N7O3 (471.52) Rf value: 0.19 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) ##EQU109##

reactant | 3-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
product | 3-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 80% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)CCC(=O)O | InChI=1S/C25H25N7O3.ClH/c1-31-21(15-28-18-9-7-16(8-10-18)23(26)27)30-20-13-17(14-29-24(20)31)25(35)32(12-11-22(33)34)19-5-3-2-4-6-19;/h2-10,13-14,28H,11-12,15H2,1H3,(H3,26,27)(H,33,34);1H
